US04877788
1-[3-(1-Benzyloxycarbonyl-4-piperazinyl)propyl]-4-(2-methoxybenzyl)piperazine-2,6-dione
This compound was prepared according to the process described in Example 5 by condensing 4-(2-methoxybenzyl)-1-(3-chloropropyl)piperazine-2,6-dione with 4-benzyloxycarbonylpiperazine.

reactant | 4-(2-methoxybenzyl)-1-(3-chloropropyl)piperazine-2,6-dione | COC1=C(CN2CC(N(C(C2)=O)CCCCl)=O)C=CC=C1 | C15H19ClN2O3
reactant | 4-benzyloxycarbonylpiperazine | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
product | 1-[3-(1-Benzyloxycarbonyl-4-piperazinyl)propyl]-4-(2-methoxybenzyl)piperazine-2,6-dione | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)CCCN1C(CN(CC1=O)CC1=C(C=CC=C1)OC)=O | C27H34N4O5
